US04307113
Into 160 ml. of water containing 9.6 g. of sodium hydroxide is suspended 16 g. of 2-amino-α,α,α-trifluoro-p-toluamide. The solution is refluxed 5 hours, then cooled, poured onto ice and acidified to a pH of 6 with concentrated hydrochloric acid. The resultant precipitate is filtered, washed with water and dried in vacuo to yield 2-amino-α,α,α-trifluoro-p-toluic acid (4-trifluoromethylanthranilic acid), m.p. 175°-177° C.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | 2-amino-α,α,α-trifluoro-p-toluamide | NC1=C(C=CC(=C1)C(=O)N)C(F)(F)F | C8H7F3N2O
reactant | hydrochloric acid | Cl | ClH
solvent | water | 9.6 g | O | H2O
product | 2-amino-α,α,α-trifluoro-p-toluic acid | NC1=C(C=CC(=C1)C(=O)O)C(F)(F)F | C8H6F3NO2
